US04528382
N-Methyl 4-Methoxybenzimidoyl Chloride
N-Methyl 4-methoxybenzamide (13.95 g, 84.5 mmole) was placed in a 50 ml round bottom flask equipped with magnetic stirrer, heating mantle, condenser and base trap. Thionyl chloride (33 g, 278 mmole) was added. The reaction was stirred and heated at reflux until gas evolution ceased (three hours). The excess thionyl chloride was distilled at ca. 15 mm Hg, and the product distilled at 75°-80° C. (0.1 mm Hg) to yield 11.9 g (76%) of the title compound as a clear colorless liquid.

reactant | N-Methyl 4-methoxybenzamide | 84.5 mmole, 13.95 g | CNC(C1=CC=C(C=C1)OC)=O | C9H11NO2
reactant | Thionyl chloride | 278 mmole, 33 g | S(=O)(Cl)Cl | Cl2OS
product | N-Methyl 4-Methoxybenzimidoyl Chloride | 11.9 g, 76% | CN=C(C1=CC=C(C=C1)OC)Cl | C9H10ClNO
